US09359345B2
Methyl bromoacetate (8.3 g, 54.3 mmol), 3-chloroaniline (8.31 g, 65.1 mmol) and diisopropylethylamine (7.01 g, 54.3 mmol) were dissolved in N,N-dimethylformamide (20 mL) to give a light yellow solution and the reaction mixture heated at 60° C. overnight. The reaction mixture was cooled to ambient temperature, diluted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give (3-chloro-phenylamino)-acetic acid methyl ester as a solid which was washed with hexanes, filtered and dried (10.2 g, 96%).

reactant | Methyl bromoacetate | 54.3 mmol, 8.3 g | BrCC(=O)OC | C3H5BrO2
reactant | 3-chloroaniline | 65.1 mmol, 8.31 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | diisopropylethylamine | 54.3 mmol, 7.01 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-chloro-phenylamino)-acetic acid methyl ester | COC(CNC1=CC(=CC=C1)Cl)=O | C9H10ClNO2
